.subckt stator_drive_netlist input_v_p input_v_m sw_node hs_drive ls_drive sin_ref tri_ref N025
XX1 input_v_p input_v_m sw_node hs_drive ls_drive sin_ref tri_ref N023
.ends stator_drive_netlist



******************************************************************************************************************
* STEPS TO GET FROM LTSPICE NETLIST TO THIS NGSPICE NETLIST:
* Delete everything that's not a subcircuit (including end of file top-level statements such as .tran, .end);
* This file is only a collection of subcircuits, not a complete SPICE netlist.
* Add parameters to each subckt line (just copy from any instantiation of said subcircuit; do not include "params:")
* Change unicode 'mu' to 'u'
* Replace any dash in any subcircuit name with an underscore 
* Add top subcircuit ngspice_top using instantiation line for XX1 in original top-level netlist (see text before this note)
*	It is important to include the XX1 instantiation as above otherwise the models below do not get connected
******************************************************************************************************************

.subckt stator_drive_netlist input_v_p input_v_m sw_node hs_drive ls_drive sin_ref tri_ref N023 N025

*plus supply output
*N004 is the top of ALE caps node
*R1 input_v_p N001 26.4m
*L1 N001 N002 800n
*R2 N002 N003 6m
*L2 N003 N004 20n

*minus supply output
*N017 is the top of ALE caps node
*R9 input_v_m N014 26.4m
*L9 N014 N015 800n
*R10 N015 N016 6m
*L10 N016 N017 20n

*Plus ALE cap
*R3 N004 N005 0.8m
*L3 N005 N006 50n
*R4 N006 N007 0.1
*L4 N007 N008 200n
*R5 N008 N009 0.0126
*C1 N009 0 10000u

*Minus ALE cap
*R11 N017 N018 0.8m
*L11 N018 N019 50n
*R12 N019 N020 0.1
*L12 N020 N021 200n
*R13 N021 N022 0.0126
*C3 N022 0 10000u

*Plus fuses output is N011
*L6 N004 N010 60n
*R6 N010 N011 1.1m

*minus fuses output is N019
*L14 N017 N018 60n
*R14 N018 N019 1.1m

* Plus film caps
*R7 N011 N012 0.2
*R8 N012 N013 0.0016
*C2 N013 0 100u

* Minus film caps
*R15 N019 N020 0.2
*R16 N020 N021 0.0016
*C4 N021 0 100u


* this setup uses only the input voltage sources to make the simulation more simple


* plus switch, N023 is the switch drive
*R17 N011 N022 0.0036
R17 input_v_p N022 0.0036
S1 N022 sw_node N023 0 myswitch
*D1 sw_node N022 1N5819
* drive circuit with deadband
R18 hs_drive N023 10
R19 hs_drive 0 10
C5 N023 0 10n
*D2 N023 hs_drive 1N5819

* minus switch, N025 is the switch drive
R20 sw_node N024 0.0036
*S2 N024 N019 N025 0 myswitch
*D3 N019 N024 1N5819
S2 N024 input_v_m N025 0 myswitch
*D3 input_v_m N024 1N5819
* drive circuit with deadband
R21 ls_drive N025 10
R22 ls_drive 0 10
C6 N025 0 10n
*D4 N025 ls_drive 1N5819


*output load
R23 N026 0 70m
L23 N026 sw_node 70u


* driver comparing sin to tri references
* high side comparator
V1 N100 0 10
R24 N100 N101 10
S3 N101 0 sin_ref tri_ref myswitch
* inverted for low side
V2 N102 0 10
R25 N102 N103 10
S4 N103 0 tri_ref sin_ref myswitch

B1 hs_drive 0 V=V(N101)
B2 ls_drive 0 V=V(N103)


* had to hard code the duty cycle because cannot yet pass time values to/from python code
*V2 gate_drive 0 PULSE(0 10 0 1n 1n 1.25u 2.5u 200)

.model 1N5819 D(Is=31.7u Rs=.051 N=1.373 Cjo=110p M=.35 Eg=.69 Xti=2 Iave=1 Vpk=40 mfg=OnSemi type=Schottky)
.model myswitch SW(Ron=0.002 Roff=1Meg Vt=8.0)

.ends stator_drive_netlist


